### PR TITLE
Add Erdős Problem 894 (finite colourings avoiding lacunary differences), link the formal proof

### LINKED ISSUE #6130: Erdős Problem 894
### What is the Erdős problem?

https://www.erdosproblems.com/894

Let $A=\{n_1<n_2<\cdots\}\subset \mathbb{N}$ be a lacunary sequence (so there exists some $\epsilon>0$ with $n_{k+1}\geq (1+\epsilon)n_k$ for all $k$). Is it true that there must exist a finite colouring of $\mathbb{N}$ with no monochromatic solutions to $a-b\in A$?

Status: proved (follows from the solution to #464 via Katznelson; quantitative bound by Peres–Schlag). A complete formal proof exists in plby/lean-proofs (`Erdos894.erdos_894`, Codex and GPT-5.6 Sol). The repository already has `erdos_464` with the house predicate `IsLacunary`, which this statement can reuse.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6130.

### What changed
Adds `FormalConjectures/ErdosProblems/894.lean` with `erdos_894` (`research solved`, `answer(True)`): for every strictly increasing lacunary sequence `n` of positive integers there are `r` and `c : ℕ → Fin r` with `c (b + n k) ≠ c b` for all `b, k` (no monochromatic solution to `a - b ∈ A`). The lacunarity hypothesis is the house predicate `IsLacunary`, exactly as in `erdos_464` (formalization note in the file). Linked to plby/lean-proofs `Erdos894.erdos_894` (Codex and GPT-5.6 Sol), which proves the same conclusion under the problem's literal hypothesis `∀ k, (1 + ε) * n k ≤ n (k + 1)`.

### Why
The problem page lists no formal statement; the plby proof is single-file, Mathlib-only and axiom-clean.

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos894.erdos_894` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms. The only content is that a strictly increasing positive sequence which is eventually lacunary (house `IsLacunary`) satisfies `(1 + ε) * n k ≤ n (k + 1)` for *all* `k` for some `ε > 0` (take the minimum over the finite prefix):

<details>
<summary>Bridge</summary>

```lean
/-- A strictly increasing sequence of positive integers which is eventually lacunary satisfies
`(1 + ε) * n k ≤ n (k + 1)` for all `k`, for some `ε > 0`. -/
theorem exists_eps (n : ℕ → ℕ) (hmono : StrictMono n) (hpos : ∀ k, 0 < n k)
    (hlac : IsLacunary n) :
    ∃ ε : ℝ, 0 < ε ∧ ∀ k, (1 + ε) * (n k : ℝ) ≤ n (k + 1) := by
  obtain ⟨c, hc, hev⟩ := hlac
  obtain ⟨N, hN⟩ := Filter.eventually_atTop.1 hev
  have hpre : ∀ M, ∃ ε : ℝ, 0 < ε ∧ ∀ k < M, (1 + ε) * (n k : ℝ) ≤ n (k + 1) := by
    intro M
    induction M with
    | zero => exact ⟨1, one_pos, fun k hk => absurd hk (Nat.not_lt_zero _)⟩
    | succ M ih =>
      obtain ⟨ε, hε, h⟩ := ih
      have hnM : (0 : ℝ) < n M := by exact_mod_cast hpos M
      refine ⟨min ε (1 / n M), lt_min hε (by positivity), fun k hk => ?_⟩
      rcases Nat.lt_succ_iff_lt_or_eq.1 hk with hk | rfl
      · refine le_trans (mul_le_mul_of_nonneg_right ?_ (by positivity)) (h k hk)
        linarith [min_le_left ε (1 / (n M : ℝ))]
      · have h1 : (n k : ℝ) + 1 ≤ n (k + 1) := by exact_mod_cast hmono (Nat.lt_succ_self k)
        calc (1 + min ε (1 / n k)) * (n k : ℝ) ≤ (1 + 1 / n k) * n k := by
              gcongr; exact min_le_right _ _
          _ = n k + 1 := by field_simp
          _ ≤ n (k + 1) := h1
  obtain ⟨ε, hε, h⟩ := hpre N
  refine ⟨min ε (c - 1), lt_min hε (by linarith), fun k => ?_⟩
  rcases lt_or_ge k N with hk | hk
  · refine le_trans (mul_le_mul_of_nonneg_right ?_ (by positivity)) (h k hk)
    linarith [min_le_left ε (c - 1)]
  · have h1 := hN k hk
    have h2 : (1 + min ε (c - 1)) * (n k : ℝ) ≤ c * n k := by
      apply mul_le_mul_of_nonneg_right _ (by positivity)
      linarith [min_le_right ε (c - 1)]
    linarith

theorem erdos_894_bridge : type_of% Erdos894.erdos_894 := by
  show True ↔ _
  simp only [true_iff]
  intro n hmono hpos hlac
  obtain ⟨ε, hε, h⟩ := exists_eps n hmono hpos hlac
  obtain ⟨C, color, hcol⟩ := Erdos894Plby.erdos_894 ⟨hpos, ε, hε, h⟩
  exact ⟨C, color, fun b k => hcol (b + n k) b ⟨k, by omega⟩⟩
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«894»` passes.

### CODE REVIEW

**Review by mo271 — APPROVED** [review]

File: FormalConjectures/ErdosProblems/894.lean [hunk 1]
```diff
@@ -0,0 +1,62 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/894.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```
